US04078049
6-Benzyloxycarbonyl-aminocaproic acid (2-dimethylaminoethyl) ester
A solution of N-benzyloxycarbonyl-6-aminocaproic acid, (2.65 g, 0.010 mole) in ethyl acetate (60 ml) was treated with triethylamine (2.8 ml, 0.020 mole) and 1.48M β-dimethylaminoethyl chloride (17 ml, 0.025 mole) and refluxed for 16 hrs. The reaction mixture was filtered and the filtrate extracted with saturated NaCl (3 × 50 ml), 5% NaHCO3 (3 × 50 ml), saturated NaCl (3 × 50 ml), dried over MgSO4, filtered and evaporated to dryness. The product was obtained as a viscous oil, 1.55 g (46.1%).

reactant | N-benzyloxycarbonyl-6-aminocaproic acid | 0.010 mole, 2.65 g | C(C1=CC=CC=C1)OC(=O)NCCCCCC(=O)O | C14H19NO4
reactant | triethylamine | 0.020 mole, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | β-dimethylaminoethyl chloride | 0.025 mole, 1.48M, 17 ml | CN(CCCl)C | C4H10ClN
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 6-Benzyloxycarbonyl-aminocaproic acid (2-dimethylaminoethyl) ester | CN(CCOC(C(CCCCC(=O)OCC1=CC=CC=C1)N)=O)C | C18H28N2O4
